### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions): prove asymptotic results for binomial coefficents and factorial variants

### PR DESCRIPTION
**Pull request by mitchell-horner**
Prove `n.choose k ~ n^k / k!` and `n.choose k = Θ(n^k)` as `n → ∞`.

---

This is needed for a proof of the Erdős-Stone-Simonovits theorem for simple graphs.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Choose.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+/-- `n.choose k` is big-theta `n^k`. -/
+theorem isTheta_choose (k : ℕ) :
+    (fun (n : ℕ) ↦ (n.choose k : ℝ))
+      =Θ[Filter.atTop] (fun (n : ℕ) ↦ (n^k : ℝ)) := by
+  apply (isEquivalent_choose k).trans_isTheta
+  conv_lhs =>
+    intro n
+    rw [div_eq_mul_inv, mul_comm]
+  apply IsTheta.const_mul_left _ isTheta_rfl
+  exact inv_ne_zero (mod_cast k.factorial_ne_zero)
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Choose.lean:61]: You can merge those two lines in one if you want. If you prefer to leave it like this because it is more readable, you might want to use `refine` instead of `apply` for the same reason as before. Also, you can use dot notation to write `isTheta_rfl.const_mul_left`, which is the same as `IsTheta.const_mul_left ?_ isTheta_rfl` but the argument of type `IsTheta` replaces the namespace. This allows for more compact and easier to read expressions.
```suggestion
  exact isTheta_rfl.const_mul_left (inv_ne_zero (mod_cast k.factorial_ne_zero))
```

**Review by EtienneC30 — COMMENTED** [review]
This is good work, thanks! I made some suggestions, don't hesitate if you have questions.

File: Mathlib/Analysis/SpecialFunctions/Choose.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+* `isTheta_choose` is the proof that `n.choose k = Θ(n^k)` as `n → ∞`.
+-/
+
+
+open Asymptotics Topology
+
+/-- `n.descFactorial k` is asymptotically equivalent to `n^k`. -/
+lemma isEquivalent_descFactorial (k : ℕ) :
+    (fun (n : ℕ) ↦ (n.descFactorial k : ℝ))
+      ~[Filter.atTop] (fun (n : ℕ) ↦ (n^k : ℝ)) := by
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Analysis/SpecialFunctions/Choose.lean:29]: I can't remove *all* the type ascriptions, and don't like leaving just *some* ascriptions.

**Comment by EtienneC30** [comment]
Don't forget to remove the awaiting-autor label when you're done.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

File: Mathlib/Analysis/SpecialFunctions/Choose.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+
+This file proves asymptotic theorems for binomial coefficents and factorial variants.
+
+## Main statements
+
+* `isEquivalent_descFactorial` is the proof that `n.descFactorial k ~ n^k` as `n → ∞`.
+
+* `isEquivalent_choose` is the proof that `n.choose k ~ n^k / k!` as `n → ∞`.
+
+* `isTheta_choose` is the proof that `n.choose k = Θ(n^k)` as `n → ∞`.
```
Comment (jcommelin) [inline Mathlib/Analysis/SpecialFunctions/Choose.lean:20]:
```suggestion
* `isEquivalent_descFactorial` is the proof that `n.descFactorial k ~ n^k` as `n → ∞`.
* `isEquivalent_choose` is the proof that `n.choose k ~ n^k / k!` as `n → ∞`.
* `isTheta_choose` is the proof that `n.choose k = Θ(n^k)` as `n → ∞`.
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
